US07728131B2
4-(1-methylpiperidin-4-ylidenemethyl)-3-trifluoromethylbenzoyl chloride hydrochloride
This compound was prepared in the same manner as in Reference Example 1 (step 7), except that 4-(1-methylpiperidin-4-ylidenemethyl)-3-trifluoromethylbenzoic acid obtained in the step 3 was used, and that treatment after the reaction was that thionyl chloride was distilled off under reduced pressure, and then the operation of adding of toluene to the residue, followed by azeotropic removal of thionyl chloride was repeated three times.

reactant | 4-(1-methylpiperidin-4-ylidenemethyl)-3-trifluoromethylbenzoic acid | CN1CCC(CC1)=CC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C15H16F3NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(1-methylpiperidin-4-ylidenemethyl)-3-trifluoromethylbenzoyl chloride hydrochloride | Cl.CN1CCC(CC1)=CC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | InChI=1S/C15H15ClF3NO.ClH/c1-20-6-4-10(5-7-20)8-11-2-3-12(14(16)21)9-13(11)15(17,18)19;/h2-3,8-9H,4-7H2,1H3;1H
